US06881844B2
A solution of 6-chloro-1H-indole (1.0 g, 6.60 mmol) in tetrahydrofuran cooled to 0° C. was treated with trifluoroacetic anhydride. This solution was stirred at 0° C. for 30 min and then was allowed to warm to 25° C. where it was stirred for 1 h. At this time, the reaction was poured into water (75 mL). The resulting precipitate was collected by filtration, washed with water, and dried in vacuo to afford 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (1.52 g, 93%) as an off-white solid: mp 256-258° C.; EI-HRMS m/e calcd for C10H15ClF3NO (M+) 247.0012, found 247.0006.

reactant | 6-chloro-1H-indole | 6.60 mmol, 1.0 g | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 75 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 1.52 g, 93% | ClC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5ClF3NO
